US04053509
N-(3-Methoxyphenyl)-1-adamantanecarboxamide
Subject 6.5 g. of adamantane carboxylic acid chloride, 4.0 g. of m-anisidine and 10.0 ml. of triethylamine to the process of Example 14 and obtain thereby the title product, m.p. 172°-174° C.

reactant | adamantane carboxylic acid chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(3-Methoxyphenyl)-1-adamantanecarboxamide | COC=1C=C(C=CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C18H23NO2
